US04414210
A. 2-Hydroxy-2,4-dichlorophenethyl chloride
To a solution of 52 g (0.23 m) of 2,4-dichlorophenacyl chloride in 200 ml of dioxane is added 9 g (0.24 m) of sodium borohydride dissolved in 60 ml of water dropwise at 50°. The addition is set at such a rate that the reaction temperature does not exceed 50°. After the addition, the reaction mixture is stirred at 50° for 11/2 hours. Excess sodium borohydride is carefully decomposed by slow addition of 10% hydrochloric acid. The organic product is extracted into ether and the combined ether extracts are washed with water, saturated sodium bicarbonate solution, and dried over MgSO4. Solvent is evaporated to give 49 g of product.

reactant | 2,4-dichlorophenacyl chloride | 52 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | sodium borohydride | 9 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 2-Hydroxy-2,4-dichlorophenethyl chloride | 49 g | OC1(C(CCCl)C=CC(=C1)Cl)Cl | C8H9Cl3O
